US04153699
Following the procedure of Example 1 but starting with 5-amino-3-ethylisoquinoline (3.3 g) and (RS)-3-methylthio-9,9a-dihydrothiazolo[3,4-a]indolium iodide (6.3 g), (RS)-3-[(3-ethylisoquinol-5-yl)imino]-9,9a-dihydrothiazolo[3,4-a]indole (4.4 g) is obtained, after recrystallisation from ethanol (40 cc), in the form of white crystals melting at 142° C.

reactant | 5-amino-3-ethylisoquinoline | 3.3 g | NC1=C2C=C(N=CC2=CC=C1)CC | C11H12N2
reactant | (RS)-3-methylthio-9,9a-dihydrothiazolo[3,4-a]indolium iodide | 6.3 g | [I-].CSC=1SCC2[N+]1C=1C=CC=CC1C2
product | (RS)-3-[(3-ethylisoquinol-5-yl)imino]-9,9a-dihydrothiazolo[3,4-a]indole | 4.4 g | C(C)C=1N=CC2=CC=CC(=C2C1)N=C1SCC2N1C=1C=CC=CC1C2 | C21H19N3S
